*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA6R3ARA471MJ80G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA6R3ARA471MJ80G_20deg-C 1 2

C1 4 2 2.09e-04
C2 5 2 2.52e-04
C3 6 2 2.76e-05
R1 3 4 8.07e-03
R2 4 5 1.02e-02
R3 5 6 4.90e-01
L1 1 3 4.20e-09

.ENDS
